US07067540B2
Preparation of 1-benzyl-3-bromo-4-(phenylethynyl)pyridin-2(1H)-one.
To a solution of 1-benzyl-3-bromo-2-oxo-1,2-dihydropyridin-4-yl trifluoromethanesulfonate (1.0 g) in DMF (5.0 mL) was added phenylacetylene (0.4 mL) and degassed using house vacuum. The reaction flask was then purged with argon, added diisopropylethylamine (0.53 mL), and PdCl2(PPh3)2 (0.35 g) were added. The resulting mixture was stirred at room temperature for 15 min and heated at 65° C. under an argon atmosphere for 3 h. The dark colored reaction mixture was concentrated in vacuo, and the residue was partitioned between EtOAc (50 mL) and 5% aqueous citric acid (25 mL). The organic extracts were washed with water, dried (Na2SO4), filtered, and concentrated to dryness. The resulting material was purified by silica gel flash chromatography using 25% EtOAc in hexanes as the eluent. The appropriate fractions were combined, concentrated under reduced pressure. 1H NMR (CDCl3) δ: 7.57 (m, 2H), 7.38 (m, 8H), 7.21 (d, 1H, J=6.8 Hz), 6.25 (d, 1H, J=6.8 Hz), and 5.16 (d, 2H), ES-MS: m/z=364 (MH+);

reactant | 1-benzyl-3-bromo-2-oxo-1,2-dihydropyridin-4-yl trifluoromethanesulfonate | 1.0 g | FC(S(=O)(=O)OC1=C(C(N(C=C1)CC1=CC=CC=C1)=O)Br)(F)F | C13H9BrF3NO4S
reactant | phenylacetylene | 0.4 mL | C1(=CC=CC=C1)C#C | C8H6
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 1-benzyl-3-bromo-4-(phenylethynyl)pyridin-2(1H)-one | C(C1=CC=CC=C1)N1C(C(=C(C=C1)C#CC1=CC=CC=C1)Br)=O | C20H14BrNO
